US05506234
b) 5-(2-Chlorobenzyl)-4-methoxyethoxymethyl-β-carboline-3-carboxylic acid imidazolide
1.5 g (0.0022 mol) of imidazole in 20 ml of tetrahydrofuran is mixed with 0.4 ml (0.0054 mol) of thionylchloride dissolved in 5 ml of tetrahydrofuran. The precipitate is suctioned off, the filtrate is instilled in a suspension of 0.693 g (0.00163 mol) of 5-(2-chlorobenzyl)-4-methoxyethoxymethyl-β-carboline-3-carboxylic acid in 30 ml of tetrahydrofuran. After it is left standing overnight the solvent is distilled off, the residue is dissolved in ethyl acetate, the solution is washed imidazole free with water. After concentration by evaporation 0.55 g (71% of theory) of 5-(2-chlorobenzyl)-4-methoxyethoxymethyl-β-carboline-3-carboxylic acid imidazolide remains.

reactant | imidazole | 0.0022 mol, 1.5 g | N1C=NC=C1 | C3H4N2
reactant | thionylchloride | 0.0054 mol, 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(2-chlorobenzyl)-4-methoxyethoxymethyl-β-carboline-3-carboxylic acid | 0.00163 mol, 0.693 g | ClC1=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)C(=O)O)COCCOC)C=CC=C1 | C23H21ClN2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-(2-Chlorobenzyl)-4-methoxyethoxymethyl-β-carboline-3-carboxylic acid imidazolide | [N-]1C=NC=C1.ClC1=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)C(=O)O)COCCOC)C=CC=C1 | InChI=1S/C23H21ClN2O4.C3H3N2/c1-29-9-10-30-13-16-21-19(12-25-22(16)23(27)28)26-18-8-4-6-15(20(18)21)11-14-5-2-3-7-17(14)24;1-2-5-3-4-1/h2-8,12,26H,9-11,13H2,1H3,(H,27,28);1-3H/q;-1
